US08304557B2
N-{5-[(6-aminopyridin-3-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 1,3-dimethyl-N-{2-methyl-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide (3.38 g, 9.20 mmol) in methanol (20 mL) was added palladium carbon (50% water-containing product, 300 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 4 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (2.94 g, 95%) as a white solid.

reactant | 1,3-dimethyl-N-{2-methyl-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 9.20 mmol, 3.38 g | CN1N=C(C=C1C(=O)NC1=C(C=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-])C)C | C18H17N5O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium carbon | 300 mg | [C].[Pd]
product | N-{5-[(6-aminopyridin-3-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 2.94 g, 95% | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)C | C18H19N5O2
